US08232409B2
E. 2-[5-(2-Trifluoromethoxy-phenyl)-1H-benzimidazol-2-yl]-3-oxa-1-aza-spiro[4.5]dec-1-ene
2-Trichloromethyl-5-(2-trifluoromethoxy-phenyl)-1H-benzimidazole (241 mg, 0.610 mmol, as prepared in step B of this Example) and (1-amino-cyclohexyl)-methanol (315 mg, 2.44 mmol, as prepared in the previous step) were placed in a 40 mL vial equipped with a magnetic stir bar. Water (8 mL) was added, and the mixture was cooled to 0° C. and stirred at that temperature for 1 h. Complete dissolution of starting materials did not occur, so the mixture was warmed to rt, treated with dioxane (8 mL), and stirred at rt for 14 h. The mixture was extracted three times with EtOAc (20 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The crude product was purified by column chromatography using a 12-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 2:5, v/v over 30 min. The column was repeated under these conditions, yielding 24.6 mg (10%) of the desired compound. 1H-NMR (400 MHz, d6-DMSO) δ: 7.78 (br. s., 1H), 7.46-7.64 (m, 5H), 7.27-7.46 (m, 1H), 4.27 (s, 2H), 1.60-1.82 (m, 6H), 1.47-1.58 (m, 1H), 1.33-1.46 (m, 3H).

reactant | 2-Trichloromethyl-5-(2-trifluoromethoxy-phenyl)-1H-benzimidazole | ClC(C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)OC(F)(F)F)(Cl)Cl | C15H8Cl3F3N2O
reactant | (1-amino-cyclohexyl)-methanol | NC1(CCCCC1)CO | C7H15NO
reactant | Water | 8 mL | O | H2O
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 2-[5-(2-Trifluoromethoxy-phenyl)-1H-benzimidazol-2-yl]-3-oxa-1-aza-spiro[4.5]dec-1-ene | 24.6 mg, 10% | FC(OC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NC3(CO2)CCCCC3)C=C1)(F)F | C22H20F3N3O2
